### PR TITLE
[Merged by Bors] - feat: Pmf.binomial

### PR DESCRIPTION
**Pull request by nomeata**
Inspired by a file by @pfaffelh

Co-authored-by: Peter Pfaffelhuber <peter.pfaffelhuber@stochastik.uni-freiburg.de>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

This was more a finger exercise than a full contribution, but maybe not much is missing for it to be useful enough to be included in mathlib? It could be a condensation kernel for more theory around this?

### CODE REVIEW

**Comment by nomeata** [comment]
Pinging @pfaffelh

File: Mathlib/Probability/ProbabilityMassFunction/Binominal.lean [hunk 1]
```diff
@@ -0,0 +1,47 @@
...
+it to be equal to `Pmf.bernoulli` for `n = 1`.
+-/
+
+noncomputable section
+
+namespace Pmf
+
+/-- The binomial `Pmf`: The probability of that `i` out of `n` coins come up heads if the
+probability of heads is `p`. -/
+def binominal (p : ENNReal) (h : p ≤ 1) (n : ℕ) : Pmf (Fin (n + 1)) :=
```
Comment (eric-wieser) [inline Mathlib/Probability/ProbabilityMassFunction/Binominal.lean:23]: Do you mean `binomial`? You use one spelling in the docstring, but a different one everywhere else.

Comment (nomeata) [reply Mathlib/Probability/ProbabilityMassFunction/Binominal.lean:23]: Binomial of course, according to Wikipedia. Silly me. I blame having worked with nominal logic too long. Will fix. Thanks for catching this!

Comment (eric-wieser) [reply Mathlib/Probability/ProbabilityMassFunction/Binominal.lean:23]:
```suggestion
/-- The binomial `Pmf`: The probability of that `i` out of `n` coins come up heads if the
probability of heads is `p`. -/
def binomial (p : ENNReal) (h : p ≤ 1) (n : ℕ) : Pmf (Fin (n + 1)) :=
```

**Comment by nomeata** [comment]
I’ll be traveling without a laptop for week, and will address review comments afterwards. Should anyone want to adopt this PR and see it through, that’s fine with me as well.

File: Mathlib/Probability/ProbabilityMassFunction/Binomial.lean [hunk 2]
```diff
@@ -0,0 +1,47 @@
...
+      simp at hi
+      rw [dif_pos hi]
+    · simp [h])
+
+theorem binomial_apply : binomial p h n i =
+  p^(i : ℕ) * (1-p)^(n - (i : ℕ)) * (n.choose i : ℕ) := rfl
+
+@[simp]
+theorem binomial_apply_0 : binomial p h n 0 = (1-p)^n :=
+  by simp [binomial_apply]
```
Comment (RemyDegenne) [inline Mathlib/Probability/ProbabilityMassFunction/Binomial.lean:38]:
```suggestion
theorem binomial_apply_0 : binomial p h n 0 = (1-p)^n := by
  simp [binomial_apply]
```

File: Mathlib/Probability/ProbabilityMassFunction/Binomial.lean [hunk 3]
```diff
@@ -0,0 +1,47 @@
...
+
+@[simp]
+theorem binomial_apply_n : binomial p h n n = p^n :=
+  by simp [binomial_apply, Nat.mod_eq_of_lt]
```
Comment (RemyDegenne) [inline Mathlib/Probability/ProbabilityMassFunction/Binomial.lean:42]:
```suggestion
theorem binomial_apply_n : binomial p h n n = p^n := by
  simp [binomial_apply, Nat.mod_eq_of_lt]
```

File: Mathlib/Probability/ProbabilityMassFunction/Binomial.lean [hunk 4]
```diff
@@ -0,0 +1,47 @@
...
+
+/-- The binomial distribution on one coin is the bernoully distribution. -/
+theorem binomial_one_eq_bernoulli :
+  binomial p h 1 = (bernoulli p h).map (cond · 1 0) := by
+    ext i; fin_cases i <;> simp [tsum_bool, binomial_apply]
```
Comment (RemyDegenne) [inline Mathlib/Probability/ProbabilityMassFunction/Binomial.lean:47]:
```suggestion
    binomial p h 1 = (bernoulli p h).map (cond · 1 0) := by
  ext i; fin_cases i <;> simp [tsum_bool, binomial_apply]
```

File: Mathlib/Probability/ProbabilityMassFunction/Binomial.lean [hunk 5]
```diff
@@ -0,0 +1,47 @@
...
+    convert (add_pow p (1-p) n).symm
+    · rw [Finset.sum_fin_eq_sum_range]
+      apply Finset.sum_congr rfl
+      intro i hi
+      simp at hi
+      rw [dif_pos hi]
+    · simp [h])
+
+theorem binomial_apply : binomial p h n i =
+  p^(i : ℕ) * (1-p)^(n - (i : ℕ)) * (n.choose i : ℕ) := rfl
```
Comment (RemyDegenne) [inline Mathlib/Probability/ProbabilityMassFunction/Binomial.lean:34]:
```suggestion
theorem binomial_apply :
    binomial p h n i = p^(i : ℕ) * (1-p)^(n - (i : ℕ)) * (n.choose i : ℕ) := rfl
```

File: Mathlib/Probability/ProbabilityMassFunction/Binomial.lean [hunk 6]
```diff
@@ -0,0 +1,47 @@
...
+
+/-- The binomial `Pmf`: The probability of that `i` out of `n` coins come up heads if the
+probability of heads is `p`. -/
+def binomial (p : ENNReal) (h : p ≤ 1) (n : ℕ) : Pmf (Fin (n + 1)) :=
+  .ofFintype (fun i => p^(i : ℕ) * (1-p)^(n - (i : ℕ)) * (n.choose i : ℕ)) (by
+    convert (add_pow p (1-p) n).symm
+    · rw [Finset.sum_fin_eq_sum_range]
+      apply Finset.sum_congr rfl
+      intro i hi
+      simp at hi
```
Comment (RemyDegenne) [inline Mathlib/Probability/ProbabilityMassFunction/Binomial.lean:29]: This looks like a non-terminal simp. Please replace it by a `simp only [...]`.

File: Mathlib/Probability/ProbabilityMassFunction/Binomial.lean [hunk 7]
```diff
@@ -0,0 +1,47 @@
...
+/-!
+# The binomial distribution
+
+This file defines the probability mass function of the binomial distribution, and proves
+it to be equal to `Pmf.bernoulli` for `n = 1`.
+-/
+
+noncomputable section
+
+namespace Pmf
```
Comment (RemyDegenne) [inline Mathlib/Probability/ProbabilityMassFunction/Binomial.lean:19]: Please close that namespace at the bottom of the file.

File: Mathlib/Probability/ProbabilityMassFunction/Binomial.lean [hunk 8]
```diff
@@ -0,0 +1,47 @@
...
+import Mathlib.Tactic.FinCases
+
+/-!
+# The binomial distribution
+
+This file defines the probability mass function of the binomial distribution, and proves
+it to be equal to `Pmf.bernoulli` for `n = 1`.
+-/
+
+noncomputable section
```
Comment (RemyDegenne) [inline Mathlib/Probability/ProbabilityMassFunction/Binomial.lean:17]: I'd rather have a single `noncomputable` in front of the definition of binomial. Also here you open a section that you never close. Let's remove that line.
```suggestion
```

**Review by RemyDegenne — COMMENTED** [review]
Thanks! Here are a few comments, mostly about spacing.
About the names: `binomial_apply_zero` would be better than `binomial_apply_0`. I am also not a fan of `binomial_apply_n` because we don't know what `n` is if we don't look at your notations in this file: call it `binomial_apply_same` perhaps?

File: Mathlib/Probability/ProbabilityMassFunction/Binomial.lean [hunk 9]
```diff
@@ -0,0 +1,49 @@
...
+-/
+
+
+namespace Pmf
+
+/-- The binomial `Pmf`: The probability of that `i` out of `n` coins come up heads if the
+probability of heads is `p`. -/
+noncomputable
+def binomial (p : ENNReal) (h : p ≤ 1) (n : ℕ) : Pmf (Fin (n + 1)) :=
+  .ofFintype (fun i => p^(i : ℕ) * (1-p)^(n - (i : ℕ)) * (n.choose i : ℕ)) (by
```
Comment (ocfnash) [inline Mathlib/Probability/ProbabilityMassFunction/Binomial.lean:24]: This looks like a job for `Finset.Nat.antidiagonal`:
```suggestion
def binomial (p : ENNReal) (h : p ≤ 1) (n : ℕ) : Pmf (antidiagonal n) :=
  .ofFintype (fun ⟨⟨i, j⟩, h⟩ ↦ p^i * (1-p)^j * ((i + j).choose j : ℕ)) (by
```

Comment (nomeata) [reply Mathlib/Probability/ProbabilityMassFunction/Binomial.lean:24]: I was actually thinking of providing both variants, just like most of the `choose` API has both, if I recall. As a user id certainly expect to have the binomial distribution on `Fin (n+1)` somewhere.

Comment (ocfnash) [reply Mathlib/Probability/ProbabilityMassFunction/Binomial.lean:24]: I suggest we wait and see if there is demand for the `Fin (n + 1)`-version.

I admit there are good chances such demand may eventually arise (maybe even soon!) but I think we should at least try to avoid having duplicate definitions for the same thing.

Comment (nomeata) [reply Mathlib/Probability/ProbabilityMassFunction/Binomial.lean:24]: Hmm. I'm skeptical how it will look like in my project (<https://github.com/nomeata/rerolling-sixes/blob/master/RerollingSixes.lean>).

Do we have a function `Fintyp (n+1) -> antidiagonal n` so that I can easily map back and forth?

I'd was inclined to follow the example set by https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Choose/Sum.html#Commute.add_pow' and `add_pow`. But I can of course do the diagonal variant first.

Comment (ocfnash) [reply Mathlib/Probability/ProbabilityMassFunction/Binomial.lean:24]: > I'd was inclined to follow the example set by https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Choose/Sum.html#Commute.add_pow' and `add_pow`. But I can of course do the diagonal variant first.

I don't think this is such a good analogy because `Commute.add_pow` and `Commute.add_pow'` are both theorems but this is a definition.

More subjectively, I claim `Commute.add_pow` is not a great lemma because it uses `Nat.sub`. The use of `Nat.sub` here is my main reason for pushing `Finset.Nat.antidiagonal` but it's not the only way to avoid `Nat.sub`. For example, bearing in mind:
```
example  (n : ℕ) (i : Fin (n + 1)) : (↑(Fin.last n - i) : ℕ) = n - (i : ℕ) := by simp [Fin.last_sub]
```
we could have a `Fin (n + 1)`-supported binomial distribution without using `Nat.sub` as follows:
```suggestion
def binomial (p : ENNReal) (h : p ≤ 1) (n : ℕ) : Pmf (Fin (n + 1)) :=
  .ofFintype (fun i => p^(i : ℕ) * (1-p)^(↑(Fin.last n - i) : ℕ) * (n.choose i : ℕ)) (by
```

Comment (ocfnash) [reply Mathlib/Probability/ProbabilityMassFunction/Binomial.lean:24]: > Interesting, is `Fin.sub` less worthy of avoidance than `Nat.sub`? I understand that `Fin.sub` is annoying;
There's nothing wrong with `Fin.sub`, it's just modular arithmetic. Indeed:
```lean
example (n : ℕ) : AddCommGroup (Fin (n + 1)) := inferInstance
```
so it's a sensible subtraction in which things like `sub_eq_zero` etc. hold. 

>  I would hope that we’d build an API around binomial so that one doesn’t often have to drop down to its actual definition, so it matters a bit less what’s happening on the RHS of the `Pmf.binominal`
Agreed, but if we can avoid `Nat.sub` (as it seems we can) then we should.

> but it’s type (i.e. whether the carrier is `Nat` or `Fin` or `antidiagonal`) matters much more
Also agreed. Note that there should be API to make it trivial to transport pmfs between domains (and if not we should create it). Given that we can do whatever we like if we also add the following (which seems to be missing, but is worth adding):
```
def antidiagonal_equiv_fin (n : ℕ) : antidiagonal n ≃ Fin (n + 1) where
  toFun := fun ⟨⟨i, j⟩, h⟩ ↦ ⟨i, by
    simp only [mem_antidiagonal] at h
    rw [Nat.lt_succ]
    -- etc
    sorry⟩
  invFun := fun ⟨i, h⟩ ↦ ⟨⟨i, n - i⟩, by
    rw [mem_antidiagonal, add_comm, tsub_add_cancel_iff_le]
    rwa [Nat.lt_succ] at h⟩
  left_inv := by
    rintro ⟨⟨i, j⟩, h⟩
    simp only [ge_iff_le, Subtype.mk.injEq, Prod.mk.injEq, true_and]
    simp only [mem_antidiagonal] at h
    exact tsub_eq_of_eq_add_rev h.symm
  right_inv := fun x ↦ by simp
```

But I guess this is all moot if we just use the `Fin.sub` version.

Comment (nomeata) [reply Mathlib/Probability/ProbabilityMassFunction/Binomial.lean:24]: Ok, I'll use the `Fin (n+1)` and `Fin.sub` variant, that sounds like a good sweet spot, thanks!

I'll also PR that equivalence.

**Comment by RemyDegenne** [comment]
I see that there was some discussion about the type of the pmf. I also thought about it, with a different conclusion.
I was willing to merge the definition using `Fin` because it's good to have a first binomial definition, even if we may come back to it later to change it, but my first reaction was that this type does not seem very usable. I have the same issue with the Bernoulli definition we have now. For example, the types of the Bernoulli and binomial distributions currently don't allow to express easily the statement that a binomial is the distribution of a sum of independent r.v. with Bernoulli laws.
If I were to implement those pmfs, my first choice would be something like Nat, or Q, or even the reals: I am thinking that we will want to sum an arbitrary number of Bernoulli/binomial r.v., so we want to be in at least N, but at some point we will consider a mean, so Q, and we might want to consider limits (law of large numbers, etc.), so the (nonnegative?) real numbers. We could use coercions from `Fin` for those computations, but having everything defined in the same type from the beginning would simplify the computations.

Perhaps we want the definition of a Bernoulli on any type with a 0 and a 1, with the type as explicit argument. Similarly for the binomial distribution.

**Comment by nomeata** [comment]
I was wondering about using `Nat` as well. In the application where I’d like to use this, I (kinda) need the extra information `Fin (n+1)` to make the termination checker happy, I am defining something whose `n`’s value depend on an integral over `binominal n` (or something like that).

If the expectation would be over all of `Nat`, I’d have to jump through some hoops (maybe using `Pmf.support` as a `Subtype` and integrating over that).

But maybe that’s too much of a special case, and the general case is better served by `Nat`?

OTOH, it’s easy to go from `Fin n` to `Nat`, but harder the other ways, so maybe the current PR carries around more useful information?

**Comment by ocfnash** [comment]
I don't have the benefit of @RemyDegenne 's experience working with the Bernoulli distribution but it sounds like we also want predicates which answer questions like "is this PMF the Bernoulli / binomial / ... distribution?".

The definition proposed here is the answer to the question: give me a canonical binomial distribution on `Fin (n + 1)`.

**Review by ocfnash — APPROVED** [review]
I think this can be merged now but just in case @RemyDegenne has any further remarks:

bors d=RemyDegenne

**Comment by RemyDegenne** [comment]
LGTM!
bors r+

**Comment by ocfnash** [comment]
(I do realise he can merge it anyway, but just wanted to signal my intentions ;-) )

**Comment by pfaffelh** [comment]
Sorry, just another opinion... Isn't there a general mathlib-rule for this? Frequently, one could define a function on a larger domain by setting all function values to 0 outside of the support. There is nothing special about the binomial distribution, really.

**Comment by ocfnash** [comment]
bors merge
